US07713988B2
550 mg (1.69 mmol) of cesium carbonate were added to a solution of 161 mg (0.56 mmol) of (S)-3-(4-aminocyclohexyl)-2-tert-butoxycarbonylaminopropionic acid in 3 ml of dimethylformamide, and the mixture was stirred at room temperature. After 30 minutes, a solution of 100 mg (0.38 mmol) of 2-chloro-4,5-diphenylpyrimidine in 2 ml of dimethylformamide was added, and the mixture was stirred at 90° C. for 6 hours. The solvent was concentrated and the residue was partitioned between ethyl acetate and water. The organic phase was dried and concentrated under high vacuum. The residue was separated by a preparative HPLC (Purosphere, gradient acetonitrile/(water+0.5% TFA), gradient 20% acetonitrile to 100% in 30 minutes). 22 mg of (S)-2-tert-butoxycarbonylamino-3-[4-(4,5-diphenylpyrimidin-2-ylamino)cyclohexyl]propionic acid were obtained. The product obtained in this way was stirred with 50% trifluoroacetic acid in acetonitrile for 16 hours, mixed with water and freeze dried. 17 mg (11%) of the desired product were obtained.

reactant | cesium carbonate | 1.69 mmol, 550 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-3-(4-aminocyclohexyl)-2-tert-butoxycarbonylaminopropionic acid | 0.56 mmol, 161 mg | NC1CCC(CC1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C14H26N2O4
reactant | 2-chloro-4,5-diphenylpyrimidine | 0.38 mmol, 100 mg | ClC1=NC=C(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H11ClN2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (S)-2-tert-butoxycarbonylamino-3-[4-(4,5-diphenylpyrimidin-2-ylamino)cyclohexyl]propionic acid | 22 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1CCC(CC1)NC1=NC=C(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C30H36N4O4
